US04617146
18.4 g of diethyl 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2,2-indanebiscarboxylate are dissolved in 500 ml of ethanol and treated with a solution of 64 g of potassium hydroxide in a mixture of 200 ml of ethanol and 50 ml of water. After heating at reflux temperature for 6 hours, the mixture is cooled, the majority of the alcohol is distilled off on a rotary evaporator, the residue is poured on to ice, acidified with 2N hydrochloric acid, extracted repeatedly with ethyl acetate, dried and evaporated. The thus-obtained crude product is heated to 160° C. for 5.5 hours and subsequently chromatographed on silica gel [eluting agent: hexane/ether (2:1)]. After recrystallization from pentane, there are obtained 6.5 g of 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2-indanecarboxylic acid in the form of colourless crystals of melting point 125°-129° C.

reactant | diethyl 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2,2-indanebiscarboxylate | 18.4 g | CC1(C=2CC(CC2C(CC1)(C)C)(C(=O)OCC)C(=O)OCC)C | C19H30O4
reactant | potassium hydroxide | 64 g | [OH-].[K+]
solvent | ethanol | 500 ml | C(C)O | C2H6O
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4,5,6,7-tetrahydro-4,4,7,7-tetramethyl-2-indanecarboxylic acid | 6.5 g | CC1(C=2CC(CC2C(CC1)(C)C)C(=O)O)C | C14H22O2
